US07645903B2
Synthesis of 4-(methylamino) butyric acid methyl ester
4-(methylamino) butyric acid HCl was dissolved in methanol and thionyl chloride in catalytic amount was added drop by drop. The reaction mixture was stirred at 0° C. for 30 min. Thereafter, the solvent was reduced in vacu, yielding a white solid.

reactant | 4-(methylamino) butyric acid HCl | Cl.CNCCCC(=O)O
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | CO | CH4O
product | 4-(methylamino) butyric acid methyl ester | COC(CCCNC)=O | C6H13NO2
